US05047490
Then, 15 L methyl vinyl ether were added and slightly heated until all of the maleic anhydride was dissolved. The temperature was raised to about 50° C. and, once the reaction started, a temperature of 55° to 65° C. was maintained in the reaction vessel by suitable cooling. After 4 to 5 hours, the reaction was completed, as determined by the fact that no monomeric maleic anhydride could be detected by means of triphenylphosphine paper. The excess methyl vinyl ether was distilled off. The process yielded 4.8 kg of a colorless, finely powdered 1:1 maleic anhydride-methyl vinyl ether copolymer having a specific viscosity of 3.1.

reactant | methyl vinyl ether | 15 L | C(=C)OC | C3H6O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | maleic anhydride-methyl vinyl ether copolymer | COC=C.C1=CC(=O)OC1=O | InChI=1S/C4H2O3.C3H6O/c5-3-1-2-4(6)7-3;1-3-4-2/h1-2H;3H,1H2,2H3
